US07153848B2
Methyltriphenylphosphonium bromide (12.4 g, 0.0347 mol) and 18-crown-6 (90 mg, 0.41 mmol) were added to THF (100 mL). The mixture was cooled in a ice-water bath. Potassium tert-butoxide (34.7 mL of 1.0M in THF, 0.0347 mol) was added via cannula to the stirred solution. 5-(Benzyloxy)-2-bromobenzaldehyde (9.2 g, 0.0316 mol) was added in one portion which resulted in a slight exotherm. After 30 minutes the cooling bath was removed and stirring was continued at 22° C. for 5 hours. The mixture was concentrated and the residue was purified by flash column chromatography on SiO2 (75 g) with hexanes/ethyl acetate (95:5) to provide 4-(benzyloxy)-1-bromo-2-vinylbenzene as a clear oil (7.9 g, 86% yield). 1H NMR (300 MHz, CDCl3) δ 5.03 (s, 2H), 5.32 (d, J=10.98 Hz, 2H,) 5.63 (d, J=17.20 Hz, 2H), 6.74 (dd, J=8.78, 2.93 Hz, 2H), 6.98 (dd, J=17.57, 10.98 Hz, 2H), 7.13 (d, J=2.93 Hz, 2H), 7.33 (m, 6H).

reactant | Potassium tert-butoxide | 0.0347 mol, 1.0M, 34.7 mL | CC(C)([O-])C.[K+]
reactant | 5-(Benzyloxy)-2-bromobenzaldehyde | 0.0316 mol, 9.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)Br | C14H11BrO2
catalyst | Methyltriphenylphosphonium bromide | 0.0347 mol, 12.4 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | 18-crown-6 | 0.41 mmol, 90 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(benzyloxy)-1-bromo-2-vinylbenzene | 7.9 g, 86% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)Br)C=C | C15H13BrO
